US07531561B2
4-Benzyl 2-((3,4-methylendioxy)phenyl)-[1,2,4]thiadiazolidine-3,5-dione (5)
Reagents: Benzylisothiocyanate (6.5 mmol, 0.85 mL), 3,4-(methylendioxy)phenyl-isocyanate (6.5 mmol, 1.06 mL) and SO2Cl2 (6.5 mmol, 0.52 mL) in diethyl ether (25 mL). Isolation: filtration of reaction mixture. Purification: recrystallization from MeOH.

reactant | Benzylisothiocyanate | 6.5 mmol, 0.85 mL | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | 3,4-(methylendioxy)phenyl-isocyanate | 6.5 mmol, 1.06 mL | C1OC=2C=C(C=CC2O1)N=C=O | C8H5NO3
reactant | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | 4-Benzyl 2-((3,4-methylendioxy)phenyl)-[1,2,4]thiadiazolidine-3,5-dione | C(C1=CC=CC=C1)N1C(N(SC1=O)C1=CC2=C(C=C1)OCO2)=O | C16H12N2O4S
